US07378420B2
A. Synthesis of 4-Fluorophenyl-1-methylpiperidin-4-yl methanone
4-Fluorophenyl piperidin-4-yl methanone 1.79 g (8.66 mmol) was added to formic acid (1.5 ml) and formaldehyde 1.05 ml and the reaction mixture was stirred at 55-60° C. for 3 hours. After cooled down, water was added, basified with potassium hydroxide pellets to pH>10 and extracted with ethyl ether 3×50 ml. The combined organic solution was dried over sodium sulfate and concentrated to give 1.88 g of desired product in 98% yield.

reactant | 4-Fluorophenyl piperidin-4-yl methanone | 8.66 mmol, 1.79 g | FC1=CC=C(C=C1)C(=O)C1CCNCC1 | C12H14FNO
reactant | formic acid | 1.5 ml | C(=O)O | CH2O2
reactant | formaldehyde | 1.05 ml | C=O | CH2O
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | O | H2O
product | 4-Fluorophenyl-1-methylpiperidin-4-yl methanone | 1.88 g, 98% yield | FC1=CC=C(C=C1)C(=O)C1CCN(CC1)C | C13H16FNO
